US07601716B2
7-Iodo-1-[2-(trifluoromethoxy)benzyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (942 mg) was reacted with 2-(trifluoromethoxy)benzyl bromide as in General Procedure 1 to give the title compound as a light yellow solid (61% yield). m.p.=235° C., LCMS: m/z=449.92 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 4.29 (2H, s), 4.89 (1H, s), 5.16 (2H, s), 7.09 (2H, m), 7.24 (1H, m), 7.34 (2H, m), 7.92 (1H, s).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 942 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2-(trifluoromethoxy)benzyl bromide | FC(OC1=C(CBr)C=CC=C1)(F)F | C8H6BrF3O
product | 7-Iodo-1-[2-(trifluoromethoxy)benzyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 61% yield | IC1=CC2=C(NCC(N2CC2=C(C=CC=C2)OC(F)(F)F)=O)N=C1 | C15H11F3IN3O2
